US05700809
5-Phenoxy-1,2,3,4-tetrahydroisoquinoline
A solution of 5-phenoxyisoquinoline (1 g, 4.5 mmol) in methanol (50 ml) was shaken on a Parr hydrogenator at 55 psi hydrogen in the presence of platinum oxide (0.2 g) for 3 h. The catalyst was then removed by filtration and the solvent evaporated. The residue was triturated with hexane to give the title compound as a colourless solid (0.6 g, 60%); δH (CDCl3) 2.65-2.75 (2H, m, ArCH2CH2N), 3.1-3.2 (2H, m, ArCH2CH2N), 4.05 (2H, br s, ArCH2N), 6.75 (1H, d, J 8 Hz, ArH), 6.83 (1H, d, J 8 Hz, ArH), and 6.9-7.35 (6H, m, ArH); m/z (CI+, NH3) 226 (M+1)+.

reactant | 5-phenoxyisoquinoline | 4.5 mmol, 1 g | O(C1=CC=CC=C1)C1=C2C=CN=CC2=CC=C1 | C15H11NO
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | platinum oxide | 0.2 g | [Pt]=O
product | 5-Phenoxy-1,2,3,4-tetrahydroisoquinoline | 0.6 g, 60% | O(C1=CC=CC=C1)C1=C2CCNCC2=CC=C1 | C15H15NO
